US09446034B2
2-[5-Cyclopropyl-2-(2-ethyl-5-methyl-2H-pyrazol-3-ylamino)-pyridin-4-ylamino]-N-methylbenzamide
To a 10 mL microwave tube were added 2-(2-chloro-5-cyclopropyl-pyridin-4-ylamino)-N-methyl-benzamide (0.075 g, 0.25 mmol, 1 eq), 2-ethyl-5-methyl-2H-pyrazol-3-ylamine (0.035 g, 0.27 mmol, 1.1 eq), Cs2CO3 (0.23 g, 0.70 mmol, 2.8 eq) and 1,4-dioxane (3 mL) and the resulting mixture was degassed with N2 for 30 minutes. To this mixture was added Pd2(dba)3 (0.008 g, 0.007 mmol, 0.03 eq) and xanthphos (0.009 g, 0.015 mmol, 0.06 eq) and this mixture was degassed again with N2 for another 10 minutes. The resulting reaction mixture was irradiated in a CEM microwave at 110° C. and 150 W for 45 min. The progress of the reaction was monitored by LCMS. After completion of the reaction, Cs2CO3 was removed by filtration and the filtrate was concentrated under reduced pressure to give a crude product. It was purified using column chromatography over neutral alumina using 0.2% MeOH-DCM as the eluant. The solid compound so obtained was washed with diethyl ether and hexane to give the title compound as a white solid (20 mg, 20%). 1H-NMR (400 MHz, DMSO-d6): δ 0.50-0.62 (m, 2H), 0.88-0.99 (m, 2H), 1.15-1.28 (m, 3H), 1.55-1.65 (m, 1H), 2.07 (s, 3H), 2.76-2.77 (d, 3H, J=4.36 Hz), 3.82-3.95 (m, 2H), 5.95 (s, 1H), 6.68 (s, 1H), 6.99-7.10 (m, 1H), 7.42-7.50 (m, 1H), 7.50-7.55 (m, 1H) 7.64-7.66 (d, 1H, J=7.6 Hz), 7.71 (s, 1H), 8.30 (s, 1H), 8.55-8.70 (brs, 1H), 9.95 (s, 1H). LC-MS [M+H]+=391.4.

reactant | 2-(2-chloro-5-cyclopropyl-pyridin-4-ylamino)-N-methyl-benzamide | 0.25 mmol, 0.075 g, 1 eq | ClC1=NC=C(C(=C1)NC1=C(C(=O)NC)C=CC=C1)C1CC1 | C16H16ClN3O
reactant | 2-ethyl-5-methyl-2H-pyrazol-3-ylamine | 0.27 mmol, 0.035 g, 1.1 eq | C(C)N1N=C(C=C1N)C | C6H11N3
reactant | Cs2CO3 | 0.70 mmol, 0.23 g, 2.8 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | xanthphos | 0.015 mmol, 0.009 g, 0.06 eq | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | Pd2(dba)3 | 0.007 mmol, 0.008 g, 0.03 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-[5-Cyclopropyl-2-(2-ethyl-5-methyl-2H-pyrazol-3-ylamino)-pyridin-4-ylamino]-N-methylbenzamide | 20 mg, 20% | C1(CC1)C=1C(=CC(=NC1)NC=1N(N=C(C1)C)CC)NC1=C(C(=O)NC)C=CC=C1 | C22H26N6O
